US04721791
5-Amino-1-[3,5-di(trichlorovinyl)benzyl]-1,2,3-triazole-4-carboxamide
To a hot (60° C.) solution of cyanoacetamide (0.692 g) in 25 ml of ethanol, 8.2 ml of a 1N methanolic solution of NaOH was added and the resulting mixture stirred for 20 minutes. 3,5-Di(trichlorovinyl)benzyl azide (1.5 g) was added in one portion and the resulting mixture stirred at 60° C. for 1 hour. The pH of the mixture was adjusted to 6 with acetic acid. The reaction mixture was then concentrated to a reduced volume and diluted with 100 ml of water. The aqueous mixture was extracted with CH2Cl2 (3×100 ml). The combined organic layers were washed with water, dried with MgSO4 and concentrated to give 1.5 g of crude product. This material was chromatographed on silica gel (95:5 CH2Cl2 :CH3OH) to give 890 mg of a solid. Recrystallization from 5 ml of ethanol provided pure triazole, m.p. 167°-169° C.

reactant | cyanoacetamide | 0.692 g | C(#N)CC(=O)N | C3H4N2O
reactant | NaOH | [OH-].[Na+]
reactant | 3,5-Di(trichlorovinyl)benzyl azide | 1.5 g | ClC(=C(Cl)Cl)C=1C=C(CN=[N+]=[N-])C=C(C1)C(=C(Cl)Cl)Cl | C11H5Cl6N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 5-Amino-1-[3,5-di(trichlorovinyl)benzyl]-1,2,3-triazole-4-carboxamide | 890 mg | NC1=C(N=NN1CC1=CC(=CC(=C1)C(=C(Cl)Cl)Cl)C(=C(Cl)Cl)Cl)C(=O)N | C14H9Cl6N5O
